US07067517B2
(2-Carbamoyl-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from 2-(methylamino)benzamide and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (57%, light yellow oil). HPLC-MS m/z=454.2 (M+Na), Rt: 3.66 min.

reactant | 2-(methylamino)benzamide | CNC1=C(C(=O)N)C=CC=C1 | C8H10N2O
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
product | (2-Carbamoyl-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=C(C=CC=C1)C(N)=O)=O)(F)F | C21H16F3N3O4
